US04013639
To a solution of 1.4 g. of sodium methylate in 40 ml. of ethanol was added 6.8 g. of diethyl ortho-nitrobenzyl phosphonate. While stirring the solution at ambient temperature, a solution of 4.1 g. of 2-nitro-4-methylbenzaldehyde in 40 ml. of ethanol was dropwise added. After being stirred for 1.5 hours and allowed to stand overnight, the yellow crystals formed were filtered and washed with a small amount of ethanol to give 6.0 g. (85% yield) of trans-2,2'-dinitro-4-methylstilbene. This compound was then recrystallized from benzene to give a product melting at 170° to 171° C.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-nitro-4-methylbenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)C | C8H7NO3
solvent | ethanol | C(C)O | C2H6O
product | trans-2,2'-dinitro-4-methylstilbene | 85% yield | [N+](=O)([O-])C1=C(C=CC(=C1)C)\C=C\C1=C(C=CC=C1)[N+](=O)[O-] | C15H12N2O4
